US04914207
A. 8-Chlorocarbonylquinoline hydrochloride
Quinoline-8-carboxylic acid (1.0 g) was added to 3 ml of thionyl chloride, and the reaction mixture heated at reflux for one hour. The reaction mixture was allowed to stir at room temperature and was then concentrated in vacuo. The residue was washed with benzene (2×10 ml) and was used in the next reaction.

reactant | Quinoline-8-carboxylic acid | 1.0 g | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-Chlorocarbonylquinoline hydrochloride | Cl.ClC(=O)C=1C=CC=C2C=CC=NC12 | InChI=1S/C10H6ClNO.ClH/c11-10(13)8-5-1-3-7-4-2-6-12-9(7)8;/h1-6H;1H
